US08895769B2
A suspension of benzyl 4-nitro-3-(trimethylsilyl)butanoate (797 mg, 2.70 mmol) and palladium/carbon (10%, 165 mg) in methanol (30 ml) was added with ammonium formate (1.70 g, 27.0 mmol), and the mixture was stirred under an argon atmosphere for 40 hours. The reaction mixture was filtered through Celite, and the Celite layer was washed with methanol. The reaction mixture was concentrated under reduced pressure, and the residue was purified by recrystallization and silica gel chromatography [methanol (10 to 25%)/chloroform] to obtain 4-amino-3-(trimethylsilyl)butanoic acid (406 mg, 86%) mentioned in the title as colorless powder.

reactant | benzyl 4-nitro-3-(trimethylsilyl)butanoate | 2.70 mmol, 797 mg | [N+](=O)([O-])CC(CC(=O)OCC1=CC=CC=C1)[Si](C)(C)C | C14H21NO4Si
reactant | ammonium formate | 27.0 mmol, 1.70 g | C(=O)[O-].[NH4+]
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium/carbon | 165 mg | [Pd] | Pd
product | 4-amino-3-(trimethylsilyl)butanoic acid | 406 mg, 86% | NCC(CC(=O)O)[Si](C)(C)C | C7H17NO2Si
